data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[S:7]([c:19]1[cH:36][cH:23][cH:21][cH:26][cH:39]1)([C:32]([S:8]([c:20]1[cH:37][cH:24][cH:22][cH:25][cH:38]1)(=[O:46])=[O:47])=[CH2:17])(=[O:48])=[O:49].[cH:1]1[cH:15][cH:30][c:41]([N:18]2[C:3](=[C:27]([c:2]3[cH:9][cH:42][cH:4][cH:43][cH:10]3)[O:5][CH3:44])[N:6]([c:52]3[cH:13][cH:34][cH:29][cH:35][cH:14]3)[N:45]=[C:33]2[c:28]2[cH:50][cH:11][cH:40][cH:12][cH:51]2)[cH:31][cH:16]1>>[cH:1]1[cH:15][cH:30][c:41](-[n:18]2[c:3]([C:27]([c:2]3[cH:9][cH:42][cH:4][cH:43][cH:10]3)([O:5][CH3:44])[CH2:17][C-:32]([S:7]([c:19]3[cH:36][cH:23][cH:21][cH:26][cH:39]3)(=[O:48])=[O:49])[S:8]([c:20]3[cH:37][cH:24][cH:22][cH:25][cH:38]3)(=[O:46])=[O:47])[n+:6](-[c:52]3[cH:13][cH:34][cH:29][cH:35][cH:14]3)[n:45][c:33]2-[c:28]2[cH:50][cH:11][cH:40][cH:12][cH:51]2)[cH:31][cH:16]1", "epd": [["LP-/Pi+", [6], [3, 6]], ["Pi-/Sigma+", [27, 3], [27, 17]], ["Pi-/LP+", [17, 32], [32]]]}
{"reaction_name": "Prins cyclization", "rsmi": "[H+:10].[CH2:1]([CH2:2][CH:7]=[CH2:8])[O:3][H:9].[O:4]=[CH:6][CH3:5]>>[O:3]1[CH2:1][CH2:2][CH:7]([CH2+:8])[CH:6]([CH3:5])1.[O:4]([H:9])[H:10]", "epd": [["Pi-/Sigma+", [7, 8], [6, 7]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [3, 9], [3]], ["LP-/Sigma+", [3], [3, 6]], ["Pi-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [4, 10]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[c:2]12[cH:17][c:31]([B-:29]([F:11])([F:12])[F:13])[n:9]([CH3:3])[c:23]1[cH:25][cH:6][cH:4][cH:19]2.[cH:1]1[cH:5][cH:20][cH:8][c:10]2[c:7]1[N+:26]([CH3:15])=[CH:18][C:16]2=[CH:14][c:24]1[cH:21][cH:27][cH:30][cH:28][cH:22]1>>[cH:1]1[cH:5][cH:20][cH:8][c:10]2[c:7]1[n:26]([CH3:15])[cH:18][c:16]2[CH:14]([CH:17]1[c:2]2[cH:19][cH:4][cH:6][cH:25][c:23]2[N+:9]([CH3:3])=[C:31]1[B-:29]([F:11])([F:12])[F:13])[c:24]1[cH:21][cH:27][cH:30][cH:28][cH:22]1", "epd": [["LP-/Pi+", [9], [31, 9]], ["Pi-/Sigma+", [17, 31], [17, 14]], ["Pi-/Pi+", [14, 16], [16, 18]], ["Pi-/LP+", [18, 26], [26]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[c:1]1([P:16]([c:2]2[cH:9][cH:22][cH:5][cH:23][cH:10]2)([c:3]2[cH:11][cH:24][cH:6][cH:25][cH:12]2)=[CH:29][C:19]([O:17][CH2:15][CH3:30])=[O:18])[cH:7][cH:20][cH:4][cH:21][cH:8]1.[cH:13]1[cH:14][cH:28][cH:32][cH+:26][cH:31][cH:27]1>>[c:1]1([P+:16]([c:2]2[cH:9][cH:22][cH:5][cH:23][cH:10]2)([c:3]2[cH:11][cH:24][cH:6][cH:25][cH:12]2)[CH:29]([C:19]([O:17][CH2:15][CH3:30])=[O:18])[CH:26]2[CH:31]=[CH:27][CH:13]=[CH:14][CH:28]=[CH:32]2)[cH:7][cH:20][cH:4][cH:21][cH:8]1", "epd": [["Pi-/Sigma+", [29, 16], [29, 26]]]}
{"reaction_name": "Alloc deprotection", "rsmi": "[CH3:2][N:7]([C:6]([O:4][CH2:5][CH:3]=[CH2:10])=[O:9])[H:8].[O:1]([H:11])[H:12]>>[CH3:2][N:7]([H:8])[H:11].[CH:3]([CH2:5][O:4][H:12])=[CH2:10].[O:1]=[C:6]=[O:9]", "epd": [["Sigma-/Sigma+", [6, 7], [1, 6]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [4, 12]], ["Sigma-/LP+", [1, 12], [1]], ["LP-/Pi+", [1], [1, 6]], ["Pi-/LP+", [6, 9], [9]], ["LP-/Pi+", [9], [6, 9]], ["Sigma-/Sigma+", [1, 11], [7, 11]]]}
{"reaction_name": "Protonation of an alkoxide after dissolving-metal reduction", "rsmi": "[CH3:1][CH2:2][O-:3].[N+:4]([H:5])([H:6])([H:7])[H:8]>>[CH3:1][CH2:2][O:3][H:5].[N:4]([H:6])([H:7])[H:8]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [4, 5], [4]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[C:1]1(=[O:11])[CH:18]=[CH:13][C:17](=[N+:20]([O-:15])[O-:16])[CH:14]=[CH:19]1.[O:2]=[S:6](=[O:3])([N:10]=[C:9]=[O:12])[c:22]1[cH:7][cH:4][c:21]([CH3:23])[cH:5][cH:8]1>>[c:1]1([O:11][C:9]([N-:10][S:6](=[O:2])(=[O:3])[c:22]2[cH:7][cH:4][c:21]([CH3:23])[cH:5][cH:8]2)=[O:12])[cH:18][cH:13][c:17]([N+:20](=[O:15])[O-:16])[cH:14][cH:19]1", "epd": [["LP-/Pi+", [15], [20, 15]], ["Pi-/Pi+", [17, 20], [13, 17]], ["Pi-/Pi+", [18, 13], [1, 18]], ["Pi-/Sigma+", [11, 1], [11, 9]], ["Pi-/LP+", [9, 10], [10]]]}
{"reaction_name": "Epoxide opening by thiol", "rsmi": "[CH3:1][S-:2].[O:3]1[CH2:4][CH2:5]1>>[CH3:1][S:2][CH2:4][CH2:5][O-:3]", "epd": [["LP-/Sigma+", [2], [2, 4]], ["Sigma-/LP+", [3, 4], [3]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1([C:9](=[O:28])[O:40][CH3:11])[CH2:13][CH2:32][CH2:29][N:36]1[C:30]1=[CH:18][CH2:7][CH2:33][CH2:21][CH2:10]1.[O:2]=[S:38](=[O:3])([c:20]1[cH:5][cH:15][c:25]([CH3:39])[cH:16][cH:6]1)[n:26]1[cH:19][c:23]([N+:22](=[O:8])[O-:12])[c:24]2[cH:14][cH:31][c:17]([N+:37](=[O:34])[O-:35])[cH:4][c:27]21>>[CH:1]1([C:9](=[O:28])[O:40][CH3:11])[CH2:13][CH2:32][CH2:29][N+:36]1=[C:30]1[CH2:10][CH2:21][CH2:33][CH2:7][CH:18]1[CH:19]1[C:23](=[N+:22]([O-:8])[O-:12])[c:24]2[cH:14][cH:31][c:17]([N+:37](=[O:34])[O-:35])[cH:4][c:27]2[N:26]1[S:38](=[O:2])(=[O:3])[c:20]1[cH:5][cH:15][c:25]([CH3:39])[cH:16][cH:6]1", "epd": [["LP-/Pi+", [36], [30, 36]], ["Pi-/Sigma+", [18, 30], [18, 19]], ["Pi-/Pi+", [19, 23], [23, 22]], ["Pi-/LP+", [22, 8], [8]]]}
